US07939535B2
Step 4: 5,7-Difluoro-3-piperazin-1-yl-benzo[d]isoxazole hydrochloride (Intermediate D1)
4-(5,7-Difluoro-benzo[d]isoxazol-3-yl)-piperazine-1-carboxylic acid tert-butyl ester (1.69 g, 5.0 mmol) was dissolved in CH2Cl2 (30 ml) and 4 N HCl in dioxane (24.9 ml, 100 mmol) was slowly added. The resulting mixture was stirred over night at r.t. After dilution with iPr2O the product was collected by filtration and washed with one portion of iPr2O before drying it under high vacuum at 50° C. to obtain 1.35 g (98%) as a white solid. m/z=240.1 ([M+H]+).

reactant | 4-(5,7-Difluoro-benzo[d]isoxazol-3-yl)-piperazine-1-carboxylic acid tert-butyl ester | 5.0 mmol, 1.69 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NOC2=C1C=C(C=C2F)F | C16H19F2N3O3
reactant | HCl | 4 N | Cl | ClH
reactant | dioxane | 100 mmol, 24.9 ml | O1CCOCC1 | C4H8O2
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
product | 5,7-Difluoro-3-piperazin-1-yl-benzo[d]isoxazole hydrochloride | Cl.FC=1C=C(C2=C(C(=NO2)N2CCNCC2)C1)F | InChI=1S/C11H11F2N3O.ClH/c12-7-5-8-10(9(13)6-7)17-15-11(8)16-3-1-14-2-4-16;/h5-6,14H,1-4H2;1H
